Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
tarry stools, anemia
 
Major Surgical or Invasive Procedure:
___: Upper endoscopy
___: Interventional radiology-guided gastrocolic lymph node 
biopsy

 
History of Present Illness:
Ms. ___ is a ___ y/o ___ woman with history of
chronic Hep B (last viral load 4.8 in ___, H. pylori
infection s/p triple therapy in ___, and iron deficiency
anemia presenting w/epigastric pain and dark stools.

Patient stated that she has been having dark stools for the past
two weeks, as well as nausea and epigastric pain. Dark stools
have been intermittent for past two weeks. Has also had
epigastric pain, worse after eating. Has been avoiding food due
to abdominal pain. Last bowel movement was today which was dark
and sticky.  Has also had nausea without vomiting. No frank 
blood
in stool. No chest pain, shortness of breath, but feeling more
fatigued than usual. Has had 9-lb weight loss over the past
month. Also endorses feeling "hot" at night, but no night 
sweats.
When she presented to her PCP in ___ for these symptoms,
CBC was sent, w/Hb 5.8. Her PCP told her to go to the ER for an
endoscopy.

Of note, patient had a positive stool H. pylori test in ___
per outside GI note, and was treated with triple therapy with
clarithromycin 500mg q12h, amoxicillin 1000mg q12, and 
omeprazole
20mg q12 for two weeks, which finished on ___ per outside
note. She also says that she has had these symptoms in the past
(dark stools) many years ago back in ___. There, she was told
that she had "inflammation of the stomach". She was treated with
medications to suppress the acid in her stomach.

 
Past Medical History:
HBV infection: Diagnosed in ___ or ___ per patient. She states
that she was treated for HBV back in ___, and that she was
"cured". Not on treatment currently. Genotype C, pan-sensitive
per drug resistance report in ___. Last viral load 4.8 on
___, which has been stable since ___. HepBe Antigen
positive, antibody negative in ___. RUQUS showing stable
hemangioma, no evidence of mass concerning for HCC or cirrhosis.
Per note dated ___, was immunized for Hep A on ___, and
is Hep A immune per Ab titer on ___. HCV ab negative in ___.

H pylor positive ___, treated with triple therapy for two
weeks, which ended on ___

Iron deficiency anemia
 
Social History:
___
___ History:
No known family history of cancer per patient.
Father had "stomach ulcers"
 
Physical Exam:
24 HR Data (last updated ___ @ 1416)
    Temp: 99.7 (Tm 99.7), BP: 111/77 (100-122/67-82), HR: 96
(84-96), RR: 16 (___), O2 sat: 97% (96-97), O2 delivery: RA    


General: Pale, alert, oriented, no acute distress  
HEENT: no conjunctival pallor, no oral mucosal pallor, sclerae
anicteric, mucous membranes moist 
CV: +systolic murmur, regular rate and rhythm
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, +epigastric tenderness with light and deep
palpation, non-distended, bowel sounds present, no
hepatosplenomegaly, no rebound or guarding   
Ext: Warm, well-perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.
 
Pertinent Results:
___ 11:26AM URINE  HOURS-RANDOM
___ 11:26AM URINE  UCG-NEGATIVE
___ 11:26AM URINE  COLOR-Colorless APPEAR-CLEAR SP 
___
___ 11:26AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-7.0 
LEUK-NEG
___ 11:05AM   GLUCOSE-96 UREA N-12 CREAT-0.5 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-24 ANION GAP-10
___ 11:05AM   estGFR-Using this
___ 11:05AM   WBC-5.8 RBC-2.33* HGB-5.8* HCT-20.0* MCV-86 
MCH-24.9* MCHC-29.0* RDW-19.9* RDWSD-61.2*
___ 11:05AM   NEUTS-66.7 ___ MONOS-9.0 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-3.87 AbsLymp-1.34 AbsMono-0.52 
AbsEos-0.04 AbsBaso-0.02
___ 11:05AM   PLT COUNT-253
___ 11:05AM   ___ PTT-27.4 ___
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
==================
[ ] Patient had evidence of peritoneal carcinomatosis on CT and 
had an ___ lymph node biopsy. At discharge, patient's 
biopsy pathology is pending. She will need to be referred to 
appropriate oncologist based on pathology result.
[ ] Patient was admitted with melena and Hb 5.8. She is now on 
pantoprazole 40mg bid at discharge. Her discharge Hb is 9.5. 
Please check a repeat CBC within 1 week of discharge.
[ ] The patient will need repeat H.pylori testing to ensure 
recent treatment was successful.
[ ] Patient has chronic hepatitis B. Her last viral load was 
4.8. Her liver function tests were within normal limits during 
this hospitalization. She had an abdominal ultrasound without 
evidence of cirrhosis or liver masses (except small echogenic 
mass most consistent with hemangioma). Consider hepatitis B 
therapy.

BRIEF HOSPITAL COURSE:
===================
Mrs. ___ is a ___ ___ woman with PMH of 
chronic Hep B (last viral load 4.8 in ___, H.pylori infection 
s/p triple therapy completed on ___, and possible atrophic 
gastritis ___ years ago who presented with 2 weeks of abdominal 
pain and intermittent tarry stools. She was found to have acute 
on chronic anemia, and subsequently underwent EGD, which showed 
a large stomach ulcer. CT abdomen/pelvis revealed an ulcerating 
mass in the gastric antrum and multiple irregular soft tissue 
nodules throughout the abdomen concerning for metastatic 
malignancy. She subsequently underwent ___ percutaneous 
biopsy of a gastocolic lymph node. At this point, we do not have 
a final diagnosis as pathology is pending from lymph node 
biopsy.

ACUTE/ACTIVE PROBLEMS:
====================
#Peritoneal carcinomatosis
Patient was found to have 4cm non-bleeding gastric ulcer 
suspicious for for malignancy during endoscopy. She subsequently 
underwent CT Abdomen/pelvis which showed a large ulcerated 
gastric mass and numerous irregular soft tissue nodules adjacent 
to the lesser curvature of the stomach, along the omentum, and 
in the right pericolic gutter which was concerning for 
peritoneal carcinomatosis of a metastatic malignancy. She 
underwent an ___ percutaneous biopsy of a gastrocolic 
lymph node. Pathology is pending at discharge, and patient will 
need referral to appropriate oncologist at discharge.

#UGIB
#Acute on chronic anemia
Patient presented with Hgb of 5.8 on day of admission along with 
2 week history of epigastric pain and melena with concerns of 
UGIB. She was started on IV pantropozole and given 2 units of 
pRBCs. Upper endoscopy revealed a 4cm non-bleeding gastric ulcer 
concerning for malignancy as above. Because the patient had been 
treated with triple therapy for two weeks for H. pylori over one 
month ago (regimen completed ___, she should be retested 
for H. pylori for cure. Of note, she had stopped taking her home 
omeprazole for the week prior to admission. She responded 
appropriately to transfusions, although she is continuing to 
have ongoing melena. Her discharge Hb is 9.5 and was sent home 
on pantoprazole 40mg PO BID.

#Chronic Hep B: Per patient, she was diagnosed with Hepatitis B 
around ___ in ___. She stated that she received treatment in 
the past and was cured. However, her most recent viral load is 
4.8 on ___, which has been roughly stable since ___ per our 
records. She is not currently on treatment, though has been 
having abdominal U/S as screening for HCC every six months, 
which are not concerning for hepatocellular carcinoma. Her CT 
Abdomen/Pelvis during this admission also did not reveal any 
concerning masses or lesions except for one, which is felt to 
most likely be a liver hemangioma. Her liver function tests are 
within normal limits on this admission. Per drug resistance 
report in ___, patient has Genotype C, which is pan-sensitive. 
HepBe Antigen positive, antibody negative in ___. Per outside 
note dated ___, she is Hep A immune per antibody titer on 
___. HCV antibody was negative in ___. She may benefit from 
treatment in the future.

GENERAL/SUPPORTIVE CARE:
# Code status: Full
# Health care proxy/emergency contact: HCP is husband ___ 
(___). Alternate contact is son ___ 
(___) who speaks ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Loratadine 10 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
2.  Simethicone 40-80 mg PO QID:PRN gas 
RX *simethicone 80 mg 1 tablet by mouth four times a day Disp 
#*120 Tablet Refills:*0 
3.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) DAILY  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
=================
GASTRIC ULCER
PERITONEAL CARCINOMATOSIS
HISTORY OF HELICOBACTER PYLORI INFECTION

SECONDARY DIAGNOSES:
===================
CHRONIC HEPATITIS B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
-  You were having dark stools and you had a low red blood cell 
count at your doctor's office.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You had a procedure called an upper endoscopy or gastroscopy, 
where a camera was used to look at the gastro intestinal tract. 
- You were found to have a stomach ulcer in your stomach.
- You had a CT scan which showed enlarged lymph nodes and tumors 
in your abdomen.
- You had a biopsy of the tumor in your stomach. These results 
are still pending.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- You should avoid eating spicy or acidic foods to reduce 
stomach acid and irritation of the ulcer.
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
- If you are having abdominal pain, black or red stools, 
lightheadedness, or dizziness, please call your doctor or come 
to the emergency room

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___